US04399134
To 1.5 g of 5-(4-hydroxy-1-piperidyl)-6-fluoro-8-amino-quinaldine were added 10 ml of concentrated hydrochloric acid and 3 ml of water, and 2 ml of an aqueous solution of 0.39 g of sodium nitrite was added dropwise to the mixture at -2° C. After 3 minutes one drop of n-octanol (defoaming agent) was added to the mixture. Then, 5.7 g of hypophosphorous acid (50% aqueous solution) already cooled to 0° C. was added dropwise to the mixture at -2° C. Thereafter, stirring was continued at 0°-5° C. for 7 hours. The reaction mixture was poured into water, rendered alkaline with an aqueous sodium hydroxide solution and extracted with dichloromethane. The extract was dried over sodium sulfate and the solvent was distilled off to give 0.68 g of 5-(4-hydroxy-1-piperidyl)-6-fluoroquinaldine.

reactant | 5-(4-hydroxy-1-piperidyl)-6-fluoro-8-amino-quinaldine | 1.5 g | OC1CCN(CC1)C1=C2C=CC(=NC2=C(C=C1F)N)C | C15H18FN3O
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | sodium nitrite | 0.39 g | N(=O)[O-].[Na+]
reactant | hypophosphorous acid | 5.7 g | [PH2](=O)O | H3O2P
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | n-octanol | one drop | C(CCCCCCC)O | C8H18O
solvent | water | O | H2O
solvent | water | 3 ml | O | H2O
product | 5-(4-hydroxy-1-piperidyl)-6-fluoroquinaldine | 0.68 g | OC1CCN(CC1)C1=C2C=CC(=NC2=CC=C1F)C | C15H17FN2O
